US08729074B2
To a 50 mL round-bottomed flask was added 3-bromoimidazo[1,2-a]pyrimidine (58 mg, 291 μmol, Syntech, Houston, Tex.), N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide (120 mg, 291 μmol), tetrakis(triphenylphosphine) palladium (34 mg, 29 μmol), aqueous sodium carbonate (2 M, 0.29 mL, 582 μmol), dioxane (3 mL). The reaction mixture was stirred at 100° C. for 5 h. The mixture was cooled down to room temperature. The reaction mixture was diluted with water (5 mL) and extracted with CH2Cl2 (5×20 mL). The organic extract was washed with saturated NaCl (5 mL), dried over Na2SO4, filtered and concentrated in vacuo and the residue was purified by silica gel chromatography, eluting with 10% MeOH/CH2Cl2 to give N-(2-chloro-5-(imidazo[1,2-a]pyrimidin-3-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide (68 mg, 58% yield). MS (ESI positive ion) m/z: calcd for C17H11ClFN5O2S: 403.0; found: 403.9 (M+1). 1H NMR (300 MHz, MeOH) δ ppm 7.23 (dd, J=6.94, 4.17 Hz, 1H) 7.25-7.36 (m, 2H) 7.84-7.94 (m, 2H) 8.04 (s, 1H) 8.28 (d, J=2.34 Hz, 1H) 8.52 (d, J=2.19 Hz, 1H) 8.70 (dd, J=4.17, 1.83 Hz, 1H) 8.94 (dd, J=6.94, 1.83 Hz, 1H)

reactant | 3-bromoimidazo[1,2-a]pyrimidine | 291 μmol, 58 mg | BrC1=CN=C2N1C=CC=N2 | C6H4BrN3
reactant | N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide | 291 μmol, 120 mg | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)F)B1OC(C(O1)(C)C)(C)C | C17H19BClFN2O4S
reactant | sodium carbonate | 582 μmol, 2 M, 0.29 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 29 μmol, 34 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(2-chloro-5-(imidazo[1,2-a]pyrimidin-3-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide | 68 mg, 58% yield | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)F)C1=CN=C2N1C=CC=N2 | C17H11ClFN5O2S
